US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)biphenyl-4-carboxamide
The titled compound was prepared following the procedure J using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and biphenyl-4-carbonyl chloride as a pale yellow oil (43%). 1H NMR (CDCl3, 300 MHz) δ 7.72 (brs, 1H), 7.53-7.27 (m, 15H), 7.17 (d, J=8.3 Hz, 2H), 6.98 (brd, J=8.7 Hz, 1H), 6.73 (d, J=8.7 Hz, 1H), 5.15 (s, 2H), 2.63 (t, J=7.5 Hz, 2H), 1.67 (s, 6H), 1.61 (m, 2H), 1.37 (m, 2H), 0.94 (t, J=7.2 Hz, 3H). HPLC, Rt: 6.07 min (Purity: 99.8%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | biphenyl-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)biphenyl-4-carboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C42H37NO4
